US03957763
Following the procedure of Example 1, 1-bromo-3-ethyl-4,7-dimethyl-2,6-nonadiene and 7-hydroxy-chromane are reacted to form 7-(3-ethyl-4,7-dimethyl-2,6-nonadienyloxy)-chromane, nD20 = 1.5226.

reactant | 1-bromo-3-ethyl-4,7-dimethyl-2,6-nonadiene | BrCC=C(C(CC=C(CC)C)C)CC | C13H23Br
reactant | 7-hydroxy-chromane | OC1=CC=C2CCCOC2=C1 | C9H10O2
product | 7-(3-ethyl-4,7-dimethyl-2,6-nonadienyloxy)-chromane | C(C)C(=CCOC1=CC=C2CCCOC2=C1)C(CC=C(CC)C)C | C22H32O2
